* E:\Dropbox\PSYNTH\Simulation\LPF.asc
V3 +15V 0 15
V4 0 -15V 15
V5 N003 0 PULSE(0 3.3 0 0 0 0.0001 0.0002) AC 1
XU2 N005 N001 +15V 0 N001 AD795
C2 N004 0 1µ
R3 N004 N003 1k
R4 N002 0 100k
R1 N005 VREF 470k
R2 +15V VREF 100k
R5 VREF 0 100k
C1 N005 N004 22µ
C3 N002 N001 22µ
V1 N008 0 PULSE(0 3.3 0 0 0 0.0001 0.0002) AC 1
XU1 N011 N006 +15V 0 N006 AD795
R7 N007 0 100k
R8 N009 VREF 470k
C5 N009 N008 22µ
C6 N007 N006 22µ
C4 N006 N010 10n
R6 N011 N010 20k
R9 N010 N009 20k
C7 N011 0 10n
.ac oct 10 1 20k
.lib ADI1.lib
.backanno
.end
